US09126998B2
rac-3-(Benzyloxy)-2-methylpropane-1,2-diamine
Under argon and at −78° C., 20.9 ml (20.9 mmol) of lithium aluminium hydride (1 N solution in diethyl ether) were added to 6.8 g (32.17 mmol, purity about 90%) of 2-amino-3-(benzyloxy)-2-methylpropionitrile Example 262A in 329 ml of dry THF. The reaction solution was at −78° C. for 1 h, at −20° C. for 2 h and at 0° C. for 2 h. 3.22 ml of water, 3.22 ml of 2 N aqueous sodium hydroxide solution and 6.44 ml of water were then added carefully. The precipitate was filtered off and washed with THF and methanol, and the filtrate was concentrated. This gave 8 g of the crude product. 7 g of this crude product were purified by silica gel chromatography (mobile phase: dichloromethane/2 N ammonia in methanol=from 20/1 to 10/1). This gave 1.52 g of the target compound (about 28% of theory).

reactant | lithium aluminium hydride | 20.9 mmol, 1 N, 20.9 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-3-(benzyloxy)-2-methylpropionitrile | 32.17 mmol, 6.8 g | NC(C#N)(COCC1=CC=CC=C1)C | C11H14N2O
reactant | water | 3.22 ml | O | H2O
reactant | sodium hydroxide | 2 N, 3.22 ml | [OH-].[Na+]
reactant | water | 6.44 ml | O | H2O
solvent | THF | 329 ml | C1CCOC1 | C4H8O
product | rac-3-(Benzyloxy)-2-methylpropane-1,2-diamine | C(C1=CC=CC=C1)OCC(CN)(N)C | C11H18N2O
